US08633175B2
[4-(3-bromophenyl)-1H-1,2,3-triazol-1-yl]methyl 2,2-dimethylpropanoate
To a mixture of 1-bromo-3-ethynylbenzene (0.430 g; 2.38 mmol; Note 1), and azidomethyl 2,2-dimethylpropanoate (0.391 g; 2.49 mmol; Note 2) in t-BuOH/water (3.5/3.0 mL respectively) at room temperature was added a solution of CuSO4.5H2O in water (0.030 g/0.5 mL), followed by sodium ascorbate (0.141 g; 0.71 mmol) in one portion. The mixture was stirred 25 h at room temperature, diluted with water and extracted with EtOAc (×3). Combined organics were washed (5% NH4OH, water, brine), dried over Na2SO4 and concentrated in vacuo affording the title compound as a tan solid which was used without further purification. LC/MS (method B) 2.77 min, m/z 338, 340 (M+H, Br isotopes).

reactant | 1-bromo-3-ethynylbenzene | 2.38 mmol, 0.430 g | BrC1=CC(=CC=C1)C#C | C8H5Br
reactant | azidomethyl 2,2-dimethylpropanoate | 2.49 mmol, 0.391 g | CC(C(=O)OCN=[N+]=[N-])(C)C | C6H11N3O2
reactant | sodium ascorbate | 0.71 mmol, 0.141 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-BuOH water | CC(C)(C)O.O
solvent | water | 0.5 mL, 0.030 g | O | H2O
product | [4-(3-bromophenyl)-1H-1,2,3-triazol-1-yl]methyl 2,2-dimethylpropanoate | CC(C(=O)OCN1N=NC(=C1)C1=CC(=CC=C1)Br)(C)C | C14H16BrN3O2
